US06630493B1
a) Ethyl 4-(N-(1-naphthylmethyl)carbamoyl)pyridine-2-carboxylate
4.9 g (25 mmol) of 2-ethoxycarbonylpyridine-3-carboxylic acid (N. Finch et al., J. Med. Chem. 1980, 23, 1405) were dissolved in 110 ml of tetrahydrofuran/dimethylformamide (10/1) and treated with 4.5 g (27.5 mmol) of 1,1′-carbonyldiimidazole. After the mixture had been stirred at room temperature for 30 min, 3.9 g (25 mmol) of 1-aminomethylnaphthalene were additionally added and the mixture was stirred at room temperature for a further 72 h. The tetrahydrofuran was then removed in vacuo and the residue was partitioned between 200 ml of ethyl acetate and 200 ml of aqueous sodium hydrogencarbonate solution. The organic phase was additionally washed with water, dried and concentrated in vacuo. 7.9 g (95%) of the product were obtained. 1H-NMR: [lacuna]

reactant | 2-ethoxycarbonylpyridine-3-carboxylic acid | 25 mmol, 4.9 g | C(C)OC(=O)C1=NC=CC=C1C(=O)O | C9H9NO4
reactant | 1,1′-carbonyldiimidazole | 27.5 mmol, 4.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-aminomethylnaphthalene | 25 mmol, 3.9 g | NCC1=CC=CC2=CC=CC=C12 | C11H11N
solvent | tetrahydrofuran dimethylformamide | 110 ml | O1CCCC1.CN(C=O)C
product | Ethyl 4-(N-(1-naphthylmethyl)carbamoyl)pyridine-2-carboxylate | 7.9 g, 95% | C1(=CC=CC2=CC=CC=C12)CNC(=O)C1=CC(=NC=C1)C(=O)OCC | C20H18N2O3
